US07252925B2
1-[2-[2-(2-Methoxyethoxy)ethoxy]ethyl]-2-methyl-1H-benzimidazole was synthesized as in Synthesis Example 1 except that an equimolar amount of 2-methylbenzimidazole was used instead of benzimidazole and an equimolar amount of 2-chloroethyl 2-(2-methoxyethoxy)ethyl ether was used instead of 2-chloroethyl methyl ether. Yield 82%.

reactant | 2-methylbenzimidazole | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | 2-chloroethyl 2-(2-methoxyethoxy)ethyl ether | COCCOCCOCCCl | C7H15ClO3
product | 1-[2-[2-(2-Methoxyethoxy)ethoxy]ethyl]-2-methyl-1H-benzimidazole | Yield 82% | COCCOCCOCCN1C(=NC2=C1C=CC=C2)C | C15H22N2O3
